US09024021B2
A mixture of methyl 6-bromo-2-pyridinecarboxylate (0.3 g, 1.3 mmol), 3-ethynylquinoline (0.3 g, 1.3 mmol), Pd(PPh3)4 (0.11 g, 0.01 mmol), CuI (0.179 g, 0.1 mmol) and diisopropylethylamine (0.5 ml, 3 mmol) in DMF (15 ml) was stirred at ambient temperature for 12 hrs under an atmosphere of nitrogen. The reaction mixture was concentrated and the crude product was purified by flash chromatography on silica gel (elution with 10% ethyl acetate in n-hexane) to provide methyl 6-[(quinolin-3-yl)ethynyl]pyridine-2-carboxylate.

reactant | methyl 6-bromo-2-pyridinecarboxylate | 1.3 mmol, 0.3 g | BrC1=CC=CC(=N1)C(=O)OC | C7H6BrNO2
reactant | 3-ethynylquinoline | 1.3 mmol, 0.3 g | C(#C)C=1C=NC2=CC=CC=C2C1 | C11H7N
reactant | diisopropylethylamine | 3 mmol, 0.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.01 mmol, 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.1 mmol, 0.179 g | [Cu]I
product | methyl 6-[(quinolin-3-yl)ethynyl]pyridine-2-carboxylate | N1=CC(=CC2=CC=CC=C12)C#CC1=CC=CC(=N1)C(=O)OC | C18H12N2O2
